### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Clique): add clique number

### PR DESCRIPTION
**Pull request by ooovi**
add clique number, maximal and maximum cliques, and theorems about the relationship between clique number and the cardinality of cliques.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by FordUniver** [comment]
@YaelDillies @kmill We are now defining `IsMaximumClique` and `IsMaximalClique` as structures, following `IsNClique`. Two things were unclear to me: why / when is the `I` at the beginning capitalized? Is it upper case for structures and lower case for lemmas? And why do we go for `(s : Finset α) (smc : G.IsMaximumClique s)` rather than `(s : G.MaximumClique)`, i.e., why don't we redefine the structures to have the set as an attribute rather than an argument?

Besides that, is there anything this PR is missing in terms of fundamental statements that you can think of?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -6,6 +6,8 @@ Authors: Yaël Dillies, Bhavik Mehta
 import Mathlib.Combinatorics.SimpleGraph.Path
 import Mathlib.Combinatorics.SimpleGraph.Operations
 import Mathlib.Data.Finset.Pairwise
+import Mathlib.Data.Nat.Lattice
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:11]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -540,12 +541,71 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
 
 end CliqueSet
 
+
+/-! ### Clique number -/
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:546]: only one ewline

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 3]
```diff
@@ -540,12 +541,71 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+variable [Fintype α]
+
+lemma fintype_cliqueNum_bddAbove : BddAbove {n | ∃ s, G.IsNClique n s} := by
+  use Fintype.card α
+  rintro y ⟨s, syc⟩
+  rw [isNClique_iff] at syc
+  rw [← syc.right]
+  exact Finset.card_le_card (Finset.subset_univ s)
+
+lemma clique_card_le_cliqueNum (t : Finset α) (tc : G.IsClique t) : #t ≤ G.cliqueNum :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:592]:
```suggestion
lemma IsClique.card_le_cliqueNum (t : Finset α) (tc : G.IsClique t) : #t ≤ G.cliqueNum :=
```
make t implicit

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 4]
```diff
@@ -540,12 +541,71 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+  le_csSup G.fintype_cliqueNum_bddAbove (Exists.intro t ⟨tc, rfl⟩)
+
+lemma cliqueNum_attained : G.cliqueNum ∈ {n | ∃ s, G.IsNClique n s} :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:595]:
```suggestion
lemma exists_isNClique_cliqueNum : ∃ s, G.IsNClique G.cliqueNum s :=
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 5]
```diff
@@ -540,12 +541,71 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+
+/-- A maximum clique in a graph `G` is a clique with the largest possible size. -/
+structure IsMaximumClique (G : SimpleGraph α) (s : Finset α) : Prop where
+  (clique : G.IsClique s)
+  (maximum : ∀ t : Finset α, G.IsClique t → #t ≤ #s)
+
+/-- A maximal clique in a graph `G` is a clique that cannot be extended by adding more vertices. -/
+structure IsMaximalClique (G : SimpleGraph α) (s : Finset α) : Prop where
+  (clique : G.IsClique s)
+  (maximal : ∀ t : Finset α, G.IsClique t → s ⊆ t → t = s)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:563]: Xhat is te use case of thrse predicates.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 6]
```diff
@@ -540,12 +541,71 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+
 /-! ### Finset of cliques -/
 
 
 section CliqueFinset
 
-variable [Fintype α] [DecidableEq α] [DecidableRel G.Adj] {n : ℕ} {s : Finset α}
+variable [Fintype α]
+
+lemma fintype_cliqueNum_bddAbove : BddAbove {n | ∃ s, G.IsNClique n s} := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:585]: can you make private ?

**Review by YaelDillies — COMMENTED** [review]
I have strain injuries to both wrists, hence must not type much. Please apologise the poor spelling, vague indications and general conciseness.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 5 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:560]: You mean why define maximal cliques? Seemed sensible to include it when defining maximum cliques, but I don't think we need it for our particular application right now (unless @ooovi disagrees).

**Comment by FordUniver** [comment]
> I have strain injuries to both wrists, hence must not type much. Please apologise the poor spelling, vague indications and general conciseness.

Thanks for the review and get better!

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:560]: I mean both maximal and maximum cliques

Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:560]: Right now @ooovi was working on the AM-GM proof of Mantel which needs this notion. We have also in the past needed the clique number when doing some auxiliary stuff for the hypercube / sensitivity conjecture and I want to clean that up as well.

Actually both of these need the independence number (which requires a notion of independence set in the first place), for which we are preparing another PR that's intended to build on this.

**Comment by YaelDillies** [comment]
> why / when is the `I` at the beginning capitalized? Is it upper case for structures and lower case for lemmas?

Yes, almost. The precise rule is that Sort-valued things (like structures and predicates) are UpperCamelCase, while the rest is lower case (eitherlowerCamelCase or snnake_case).

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 7]
```diff
@@ -540,12 +539,77 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+section CliqueNumber
+
+variable {α : Type*} {G : SimpleGraph α}
+
+/-- The maximal number of vertices in a graph `G`. -/
+noncomputable def cliqueNum (G : SimpleGraph α) : ℕ := sSup {n | ∃ s, G.IsNClique n s}
+
+/-- A maximum clique in a graph `G` is a clique with the largest possible size. -/
+structure IsMaximumClique (G : SimpleGraph α) (s : Finset α) : Prop where
+  (clique : G.IsClique s)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:554]:
```suggestion
  (isClique : G.IsClique s)
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:564]: > Right now @ooovi was working on the AM-GM proof of Mantel which needs this notion. We have also in the past needed the clique number when doing some auxiliary stuff for the hypercube / sensitivity conjecture and I want to clean that up as well.

How much do you need it? Is it like one lemma or two, or do you a full API about them

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 7 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Should it then not also be named `isClique` in `structure IsNClique`?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 5 above)
Comment (ooovi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:564]: For my specific proof, I need the dual of `lemma maximumClique_card_eq_cliqueNum (s : Finset α) (sm : G.IsMaximumClique s) : #s = G.cliqueNum`, which is the same statement but about maximum independent sets and the coclique number. The dualization is in a seperate PR, #18608.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Yes it should!

Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Hope it's fine if I add that change to this PR

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 8]
```diff
@@ -331,7 +330,7 @@ theorem CliqueFree.comap {H : SimpleGraph β} (f : H ↪g G) : G.CliqueFree n 
     simp [CliqueFree, show ∃ (_ : β), True from ⟨f (Classical.arbitrary _), trivial⟩]
   simp [CliqueFree, isNClique_map_iff hlt]
 
-/-- See `SimpleGraph.cliqueFree_of_chromaticNumber_lt` for a tighter bound. -/
+/-- See `SimpleGraph.IsCliqueFree_of_chromaticNumber_lt` for a tighter bound. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:333]: Your Ctrl + F was too eager ;)

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 9]
```diff
@@ -540,12 +539,77 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+  (maximum : ∀ t : Finset α, G.IsClique t → #t ≤ #s)
+
+theorem isMaximumClique_iff {s : Finset α} :
+    G.IsMaximumClique s ↔ G.IsClique s ∧ ∀ t : Finset α, G.IsClique t → #t ≤ #s :=
+  ⟨fun h ↦ ⟨h.1, h.2⟩, fun h ↦ ⟨h.1, h.2⟩⟩
+
+/-- A maximal clique in a graph `G` is a clique that cannot be extended by adding more vertices. -/
+structure IsMaximalClique (G : SimpleGraph α) (s : Finset α) : Prop where
+  (clique : G.IsClique s)
+  (maximal : ∀ t : Finset α, G.IsClique t → s ⊆ t → t = s)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:564]: This looks like it could be written as `Maximal G.IsClique s` instead

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 10]
```diff
@@ -540,12 +539,77 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
 end CliqueSet
 
+/-! ### Clique number -/
+
+
+section CliqueNumber
+
+variable {α : Type*} {G : SimpleGraph α}
+
+/-- The maximal number of vertices in a graph `G`. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:549]:
```suggestion
/-- The maximal number of vertices in a clique of a graph `G`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 11]
```diff
@@ -540,12 +539,77 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+  rintro y ⟨s, syc⟩
+  rw [isNClique_iff] at syc
+  rw [← syc.right]
+  exact Finset.card_le_card (Finset.subset_univ s)
+
+lemma IsClique.card_le_cliqueNum {t : Finset α} {tc : G.IsClique t} : #t ≤ G.cliqueNum :=
+  le_csSup G.fintype_cliqueNum_bddAbove (Exists.intro t ⟨tc, rfl⟩)
+
+lemma exists_isNClique_cliqueNum : ∃ s, G.IsNClique G.cliqueNum s :=
+    Nat.sSup_mem ⟨0, by simp[isNClique_empty.mpr rfl]⟩ G.fintype_cliqueNum_bddAbove
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:600]: Let's move this block so it's directly under the definition of `cliqueNum` - it shouldn't be in the CliqueFinset section.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 12]
```diff
@@ -540,12 +539,77 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+
+lemma maximumClique_card_eq_cliqueNum (s : Finset α) (sm : G.IsMaximumClique s) :
+    #s = G.cliqueNum := by
+  obtain ⟨sc, sm⟩ := sm
+  obtain ⟨t, tc, tcard⟩ := G.exists_isNClique_cliqueNum
+  exact eq_of_le_of_not_lt sc.card_le_cliqueNum (by simp [← tcard, sm t tc])
+
+lemma maximumClique_exists : ∃ (s : Finset α), G.IsMaximumClique s := by
+  obtain ⟨s, snc⟩ := G.exists_isNClique_cliqueNum
+  exact ⟨s, ⟨snc.IsClique, fun t ht => snc.card_eq.symm ▸ ht.card_le_cliqueNum⟩⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:610]: Let's also move this block so it's directly after `maximal_of_maximum`.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 13]
```diff
@@ -540,12 +539,77 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+/-- A maximal clique in a graph `G` is a clique that cannot be extended by adding more vertices. -/
+structure IsMaximalClique (G : SimpleGraph α) (s : Finset α) : Prop where
+  (clique : G.IsClique s)
+  (maximal : ∀ t : Finset α, G.IsClique t → s ⊆ t → t = s)
+
+theorem isMaximalClique_iff {s : Finset α} :
+    G.IsMaximalClique s ↔ G.IsClique s ∧ ∀ t : Finset α, G.IsClique t → s ⊆ t → t = s :=
+  ⟨fun h ↦ ⟨h.1, h.2⟩, fun h ↦ ⟨h.1, h.2⟩⟩
+
+lemma maximal_of_maximum (s : Finset α) (M : G.IsMaximumClique s) : G.IsMaximalClique s :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:570]:
```suggestion
lemma IsMaximumClique.isMaximalClique (s : Finset α) (M : G.IsMaximumClique s) : G.IsMaximalClique s :=
```
(provided I haven't got something wrong), this will mean you can write `M.isMaximalClique` in applications

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 14]
```diff
@@ -540,12 +539,77 @@ theorem cliqueSet_map_of_equiv (G : SimpleGraph α) (e : α ≃ β) (n : ℕ) :
...
+  { clique := M.isClique,
+    maximal := fun t ht hsub => by
+      by_contra hc
+      push_neg at hc
+      have hlt : #s < #t := card_lt_card (HasSubset.Subset.ssubset_of_ne hsub hc.symm)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:575]:
```suggestion
      have hlt : #s < #t := card_lt_card (hsub.ssubset_of_ne hc.symm)
```
I think this should work!

**Review by b-mehta — COMMENTED** [review]
This is looking in pretty good shape!

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 9 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: I think just using `Maximal` is the cleaner way of doing it.

**Review by b-mehta — APPROVED** [review]
Thanks!

bors d+

**Comment by ooovi** [comment]
bors merge
